US06175026B1
b) Preparation of Zirconium (II) Chloride Bis (Tetrahydrofuran)—Lithium Chloride Free
Under argon and moisture-free conditions, 6.32 (27.1 mmol) of zirconium (IV) chloride were cooled to −78° C., and 175 mL of THF were slowly added. After addition the milky slurry was allowed to warm up to room temperature and was stirred for 45 minutes. At this point, 50 mL of toluene were added and the mixture was cooled again to −78° C. Then, over a period of 30 min, 36 mL of a 1.6 M solution of n-butyllithium in hexane was gradually introduced. The suspension turned from white to yellow and then gradually to dark brown. The reaction mixture was allowed to warm up to room temperature and was stirred for 18 hours. The removal of the lithium chloride was accomplished as follows : As much of the THF as possible was evaporated under reduced pressure and collected in a cooled dry ice trap. During this process the flask with the zirconium (II) chloride solution was kept at about 25° C. The amount of solvent removed was 194 mL.

reactant | zirconium (IV) chloride | [Cl-].[Zr+4].[Cl-].[Cl-].[Cl-]
reactant | THF | 175 mL | C1CCOC1 | C4H8O
reactant | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
reactant | n-butyllithium | C(CCC)[Li]
solvent | hexane | CCCCCC | C6H14
product | Zirconium (II) Chloride Bis (Tetrahydrofuran) Lithium Chloride | O1CCCC1.O1CCCC1.[Cl-].[Zr+2].[Cl-].[Cl-].[Li+] | InChI=1S/2C4H8O.3ClH.Li.Zr/c2*1-2-4-5-3-1;;;;;/h2*1-4H2;3*1H;;/q;;;;;+1;+2/p-3
